US20010007873A1
B. 6-[2-Cyclobutyl-4-(2-dimethylamino-1-methyl-ethoxy)-phenyl]-pyridin-2-ylamine
Prepared by a lithium aluminum hydride (LiAIH4) reduction of 2-[4-(6-amino-pyridin-2-yl)-3-cyclobutyl-phenoxy]-N,N-dimethyl-propionamide, as described in Example 28, in 78.8% yield.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-[4-(6-amino-pyridin-2-yl)-3-cyclobutyl-phenoxy]-N,N-dimethyl-propionamide | NC1=CC=CC(=N1)C1=C(C=C(OC(C(=O)N(C)C)C)C=C1)C1CCC1 | C20H25N3O2
product | 6-[2-Cyclobutyl-4-(2-dimethylamino-1-methyl-ethoxy)-phenyl]-pyridin-2-ylamine | 78.8% yield | C1(CCC1)C1=C(C=CC(=C1)OC(CN(C)C)C)C1=CC=CC(=N1)N | C20H27N3O
